US04335054
2-Methyl-5-nitrocinnamonitrile
0.336 g (1.5 millimols) of palladium acetate, 29.93 g (150 millimols) of 2-methyl-5-nitrobenzoyl chloride, 9.94 g (187.5 millimols) of acrylonitrile and 27.80 g (150 millimols) of tri-n-butylamine, in 150 ml of p-xylene, are stirred for 80 minutes at 130°. The mixture is then extracted, and dried, as described in Example 68. The crude product is chromatographed on silica gel in toluene and is then recrystallised from carbon tetrachloride/cyclohexane. 6.3 g (22% of theory) of white crystals, of melting point 115.6° C., are obtained. Analysis for C10H8N2O2 : calculated C 63.83%, H 4.29%, N 14.89%; found C 63.8%, H 4.2%, N 15.1%.

reactant | 2-methyl-5-nitrobenzoyl chloride | 150 millimols, 29.93 g | CC1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C8H6ClNO3
reactant | acrylonitrile | 187.5 millimols, 9.94 g | C(C=C)#N | C3H3N
reactant | tri-n-butylamine | 150 millimols, 27.80 g | C(CCC)N(CCCC)CCCC | C12H27N
solvent | p-xylene | 150 ml | CC=1C=CC(=CC1)C | C8H10
catalyst | palladium acetate | 1.5 millimols, 0.336 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-Methyl-5-nitrocinnamonitrile | CC1=C(C=CC#N)C=C(C=C1)[N+](=O)[O-] | C10H8N2O2
